US06627628B1
2-(4-Chlorophenyl)-4-hydroxy-6,7-dihydro-5H-cyclopenta[d]pyrimidine
7.1 g of methyl 2-oxocyclopentane-1-carboxylate and 9.6 g of 4-chlorobenz-amidine hydrochloride were introduced into 50 ml of methanol. 5.6 g of potassium tert-butoxide were added with stirring. The reaction mixture was stirred under reflux for 4 hours and then poured onto ice water. The crystalline product was filtered off with suction, washed with water and recrystallized from dimethylformamide. Yield: 8.8 g. M.p.: 282° C.

reactant | methyl 2-oxocyclopentane-1-carboxylate | 7.1 g | O=C1C(CCC1)C(=O)OC | C7H10O3
reactant | 4-chlorobenz-amidine hydrochloride | 9.6 g | Cl.ClC1=CC=C(C(=N)N)C=C1
reactant | potassium tert-butoxide | 5.6 g | CC(C)([O-])C.[K+]
solvent | methanol | 50 ml | CO | CH4O
product | 2-(4-Chlorophenyl)-4-hydroxy-6,7-dihydro-5H-cyclopenta[d]pyrimidine | ClC1=CC=C(C=C1)C=1N=C(C2=C(N1)CCC2)O | C13H11ClN2O
